US06350892B1
A solution of 4-[4-[2-(dodecylthio)ethoxy]phenyl]-1,1,1-trifluoro-2-butanone (0.340 g, 0.76 mmol) in methanol (15 ml) was treated with a solution of sodium periodate (0.165 g, 0.77 mmol) in water (3 ml) and the resulting mixture was stirred at 22° C. for 18 h. The solid formed was filtered and washed with methanol. This filtrate was then concentrated under reduced pressure and then partitioned between water and ethyl acetate. The organic phase was then dried (magnesium sulfate) and concentrated. The residue was chromatographed on silica gel (elution toluene-ethyl acetate 1:1) to give 0.335 g (90%) of 4-[4-[2-(dodecylsulfinyl)ethoxy]phenyl]-1,1,1-trifluoro-2-butanone as a white solid. By 1HNMR this product was a 6:4 mixture of trifluoromethyl ketone and hydrated trifluoromethyl ketone. The pure hydrate precipitates from ethyl acetate-hexane: m.p. 98-100° C.

reactant | 4-[4-[2-(dodecylthio)ethoxy]phenyl]-1,1,1-trifluoro-2-butanone | 0.76 mmol, 0.340 g | C(CCCCCCCCCCC)SCCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O | C24H37F3O2S
reactant | sodium periodate | 0.77 mmol, 0.165 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | water | 3 ml | O | H2O
product | 4-[4-[2-(dodecylsulfinyl)ethoxy]phenyl]-1,1,1-trifluoro-2-butanone | 0.335 g, 90% | C(CCCCCCCCCCC)S(=O)CCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O | C24H37F3O3S
